US07893056B2
N,N-Dimethyl-L-prolinamide (2.50 g, 17.58 mmol) was dissolved in a mixture of CH2Cl2 (50 mL) and water (50 mL), then solid sodium bicarbonate (2.95 g, 35.16 mmol) was added, followed by benzoyl chloride (2.1 mL, 18.45 mmol). After stirring overnight, the phases were separated, and the aqueous phase was extracted with CH2Cl2 (3×50 mL). The combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to provide N,N-dimethyl-1-(phenylcarbonyl)-L-prolinamide (4.502 g, >99%). LCMS: (M+H)+: 247.2.

reactant | N,N-Dimethyl-L-prolinamide | 17.58 mmol, 2.50 g | CN(C([C@H]1NCCC1)=O)C | C7H14N2O
reactant | sodium bicarbonate | 35.16 mmol, 2.95 g | C([O-])(O)=O.[Na+]
reactant | benzoyl chloride | 18.45 mmol, 2.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | N,N-dimethyl-1-(phenylcarbonyl)-L-prolinamide | 4.502 g, >99% | CN(C([C@H]1N(CCC1)C(=O)C1=CC=CC=C1)=O)C | C14H18N2O2
